US06610707B1
(2S)-1-[(Cyclohexylmethyl)sulfonyl]-2-piperidinecarbonitrile
The title compound was prepared by a similar method to Preparation 3 from (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxamide [see Preparation 26], oxalyl chloride, dimethylformamide and pyridine. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 80:20 changing to 20:80, by volume (in 10% increments), hexane:ethyl acetate to afford (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarbonitrile as an oil.

reactant | (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)C(=O)N | C13H24N2O3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarbonitrile | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)C#N | C13H22N2O2S
